US05438064
Step 1, 4-[(4-Formylphenyl)amino]-8-methoxy-3-quinoline-carboxylic acid ethyl ester:
4-Chloro-8-methoxy-3-quinolinecarboxylic acid ethyl ester (10.62 g, 40 mmol) and 4-aminobenzaldehyde (4.85 g, 40 mmol) were suspended in dry DMF (100 mL) and treated dropwise with concentrated HCl (aq) (3.3. mL, 40 mmol). The mixture was heated at 90° C. for 40 min. After dilution with methylene chloride (800 mL) the reaction mixture was extracted with 1N NaOH (200 mL) and water (3×200 mL) and the dried (MgSO4) organic phase evaporated to a yellow oil. Crystallization from a minimum amount of ether afforded 8.0 g (22.8 mmol), 57% yield) of the product as a light yellow solid: m.p. 108°-110° C. (dec): 1H NMR (Me2SO-d6, 400 MHz) δ 9.79 (s, 1 H), 9.70 (s, 1 H), 8.99 (s, 1 H), 7.75 (d, J=8.7 Hz, 2 H), 7.64 (d, J=7.9 Hz, 1 H), 7.52 (t, J=7.9 Hz, 1 H), 7.31 (d, J=7.9 Hz, 1 H), 7.01 (d, J=8.5 Hz, 2 H), 4.02 (q, J=7.1 Hz, 2 H), 3.99 (s, 3 H), 1.08 (t,J=7.1 Hz, 3 H); MS(EI), m/z (rel. intensity)=350 (M+, 100), 321(34), 275(68), 247(58), 218(35), 205(18), 190(21); IR(KBr) 3430, 3350, 2820, 2740, 1685, 1590, 1500, 1390, 1270, 1215, 1160, 1060, 1020, 770cm-1.

reactant | 4-Chloro-8-methoxy-3-quinolinecarboxylic acid ethyl ester | 40 mmol, 10.62 g | C(C)OC(=O)C=1C=NC2=C(C=CC=C2C1Cl)OC | C13H12ClNO3
reactant | 4-aminobenzaldehyde | 40 mmol, 4.85 g | NC1=CC=C(C=O)C=C1 | C7H7NO
reactant | HCl | 40 mmol | Cl | ClH
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 4-[(4-Formylphenyl)amino]-8-methoxy-3-quinoline-carboxylic acid ethyl ester | 57% yield | C(C)OC(=O)C=1C=NC2=C(C=CC=C2C1NC1=CC=C(C=C1)C=O)OC | C20H18N2O4
